US05631401
4-(2-Methylphenoxy)benzaldehyde
A solution of o-cresol (5.4 g, 50.7 mmol) in DMSO (10 mL) was added dropwise to a stirred mixture of 60% oil dispersion sodium hydride (2.02 g, 50.5 mmol) in DMSO (20 mL). After stirring for 1 hour at ambient temperature, a solution of p-fluorobenzaldehyde (5.36 mL, 50 mmol) in DMSO (10 mL) was added dropwise. After the addition was complete, the reaction mixture was gradually heated to 140-160° C. and maintained at that temperature for 1 hour. The reaction mixture was poured into ice-water and extracted with ether. The combined organic extracts were washed successively with ice-cold dilute aqueous sodium hydroxide solution, dilute aqueous hydrochloric acid solution, water and saturated aqueous sodium chloride solution, dried over sodium sulfate and evaporated to give a brown liquid. Chromatography on silica gel eluting with 95:5 hexane-ethyl acetate afforded 6.1 g (51%).of the title compound. 1H NMR (CDCl3, 300MHz) δ 2.19 (s, 3H), 6.98 (m, 3H), 7.2 (m, 3H), 7.82 (m, 2H), 9.9 (s, 1H). MS (DCl/NH3) m/e 213 (M+H)+.

reactant | o-cresol | 50.7 mmol, 5.4 g | C1(=CC=CC=C1O)C | C7H8O
reactant | sodium hydride | 50.5 mmol, 2.02 g | [H-].[Na+]
reactant | p-fluorobenzaldehyde | 50 mmol, 5.36 mL | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
product | 4-(2-Methylphenoxy)benzaldehyde | CC1=C(OC2=CC=C(C=O)C=C2)C=CC=C1 | C14H12O2
